US04472433
(1) Preparation of ethyl 2-(2-amino-3-phenoxyphenyl)acetate
To a mixture of iron powder (9 g.), ammonium chloride (0.9 g.), ethanol (80 ml.) and water (40 ml.) was added ethyl 2-(2-nitro-3-phenoxyphenyl)acetate (10.9 g.) over 5 minutes under mild reflux and stirring and the mixture was stirred for 1.5 hours at the same temperature. The reaction mixture was filtered under heating and ethanol was distilled off from the filtrate under reduced pressure. To the residue was added water and the mixture was extracted with diethyl ether. The extract was washed with water and dried over magnesium sulfate, and diethyl ether was distilled off under reduced pressure to give the viscous captioned compound (9.5 g.).

reactant | ammonium chloride | 0.9 g | [Cl-].[NH4+]
reactant | ethanol | 80 ml | C(C)O | C2H6O
reactant | ethyl 2-(2-nitro-3-phenoxyphenyl)acetate | 10.9 g | [N+](=O)([O-])C1=C(C=CC=C1OC1=CC=CC=C1)CC(=O)OCC | C16H15NO5
catalyst | iron | 9 g | [Fe] | Fe
solvent | water | 40 ml | O | H2O
product | ethyl 2-(2-amino-3-phenoxyphenyl)acetate | NC1=C(C=CC=C1OC1=CC=CC=C1)CC(=O)OCC | C16H17NO3
